US06605601B2
Step 1: 4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carboxylic acid
5,6-Diamino-1-propyl-1H-pyrimidine-2,4-dione hydrochloride salt (570 mg) was dissolved in 20 mL of DMF along with bicyclo[2.2.2]octane-1,4-dicarboxylic acid monomethyl ester (520 mg, 2.45 mmol). HATU (980 mg, 1.05 eq) was added, followed by Et3N (1.40 mL, 4.05 eq). The resulting reaction mixture was stirred at rt overnight. The following morning, the reaction mixture was filtered to remove some of the precipitate. The filtrate was concentrated under reduced pressure. The resulting residue was dissolved in 10 mL of H2O containing 10 eq of NaOH (980 mg). The reaction mixture was stirred under reflux for 2 h. It was then cooled to rt and acidified to pH2 with concentrated HCl. The resulting precipitate was collected by filtration and dried to afford 680 mg of the acid derivative.

reactant | 5,6-Diamino-1-propyl-1H-pyrimidine-2,4-dione hydrochloride salt | 570 mg | Cl.NC=1C(NC(N(C1N)CCC)=O)=O
reactant | bicyclo[2.2.2]octane-1,4-dicarboxylic acid monomethyl ester | 2.45 mmol, 520 mg | COC(=O)C12CCC(CC1)(CC2)C(=O)O | C11H16O4
reactant | HATU | 980 mg, 1.05 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.40 mL, 4.05 eq | CCN(CC)CC | C6H15N
reactant | H2O | 10 mL, 10 eq | O | H2O
reactant | NaOH | 980 mg | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carboxylic acid | 680 mg | O=C1NC(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C(=O)O)=O | C17H22N4O4
